US07968570B2
A mixture of 4-bromo-2-bromomethyl-6-chloro-benzoic acid methyl ester (1.06 g, 3.00 mmol), 4-fluoro-benzylamine (0.457 mL, 4.0 mmol), and K2CO3 (0.967 g, 7.0 mmol) in toluene (10 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-bromo-7-chloro-2-(4-fluoro-benzyl)-2,3-dihydro-isoindol-1-one (0.21 g, 20%). GC-MS: m/z 355 (M)+. 1H NMR (300 MHz, CDCl3): δ (ppm) 4.20 (s, 2H), 4.73 (s, 2H), 7.02 (t, 2H), 7.29-7.31 (m, 2H), 7.44 (s, 1H), 7.58 (s, 1H).

reactant | 4-bromo-2-bromomethyl-6-chloro-benzoic acid methyl ester | 3.00 mmol, 1.06 g | COC(C1=C(C=C(C=C1Cl)Br)CBr)=O | C9H7Br2ClO2
reactant | 4-fluoro-benzylamine | 4.0 mmol, 0.457 mL | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | K2CO3 | 7.0 mmol, 0.967 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 5-bromo-7-chloro-2-(4-fluoro-benzyl)-2,3-dihydro-isoindol-1-one | 0.21 g, 20% | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)F | C15H10BrClFNO
